US06500853B1
4-({2-[1-benzhydryl-5-chloro-2-(hydroxymethyl)-1H-indol-3-yl]ethyl}sulfonyl)benzoic acid
Methyl 4-({2-[1-benzhydryl-5-chloro-2-(hydroxymethyl)-1H-indol-3-yl]ethyl}sulfonyl)benzoate (1 eq) was dissolved in THF (0.07M). Then MeOH (2.5× the volume of THF) was added, followed by a 1N NaOH solution (2 eq). The reaction was stirred overnight and the solvent was then removed. The resulting residue was dissolved in water and 1N HCl was added until solution was acidic. The resulting white precipitate was collected by filtration and it was the title compound in 76% yield. m/z (M−1) 557.6

reactant | Methyl 4-({2-[1-benzhydryl-5-chloro-2-(hydroxymethyl)-1H-indol-3-yl]ethyl}sulfonyl)benzoate | 1 eq | C(C1=CC=CC=C1)(C1=CC=CC=C1)N1C(=C(C2=CC(=CC=C12)Cl)CCS(=O)(=O)C1=CC=C(C(=O)OC)C=C1)CO | C32H28ClNO5S
reactant | MeOH | CO | CH4O
reactant | NaOH | 1N, 2 eq | [OH-].[Na+]
solvent | THF | 0.07M | C1CCOC1 | C4H8O
product | 4-({2-[1-benzhydryl-5-chloro-2-(hydroxymethyl)-1H-indol-3-yl]ethyl}sulfonyl)benzoic acid | 76% yield | C(C1=CC=CC=C1)(C1=CC=CC=C1)N1C(=C(C2=CC(=CC=C12)Cl)CCS(=O)(=O)C1=CC=C(C(=O)O)C=C1)CO | C31H26ClNO5S
